US06884803B2
1-(4-Bromo-benzyl)-piperidine
A solution of 4-bromobenzaldehyde (5 g), piperidine (2.9 mL), and acetic acid (1.5 mL) in DCE (65 mL) was treated with sodium triacetoxyborohydride (6.9 g). After 27 h, the resulting mixture was treated with saturated aqueous sodium bicarbonate (50 mL), and extracted with DCM (2×50 mL). The combined organic phases were dried (magnesium sulfate) and evaporated. Kugelrohr distillation of the residue (160° C., 5 mm Hg) gave the title compound as a pale yellow oil (5.9 g).

reactant | 4-bromobenzaldehyde | 5 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | piperidine | 2.9 mL | N1CCCCC1 | C5H11N
reactant | sodium triacetoxyborohydride | 6.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | DCE | 65 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
product | 1-(4-Bromo-benzyl)-piperidine | 5.9 g | BrC1=CC=C(CN2CCCCC2)C=C1 | C12H16BrN
